US05902905
1-(β-chloroethylsulfonyl)-3-nitrobenzene (2.50 g, 10 mmol) was added to 20 g of toluene, to this solution were added 1.50 g of 49% aqueous potassium carbonate solution (potassium carbonate 5.3 mmol) and 50 mg (0.5 mmol) of triethylamine, and the mixture was stirred for 2 hours at 40° C. Then, 10 g of water was added and the mixture was separated to an organic phase and aqueous phase. This aqueous phase was extracted by chloroform, and the resulted organic phase was combined with the previous organic phase, dried over magnesium sulfate, the solvents were distilled off, to obtain 2.00 g (yield 94.3%) of (3-nitrophenyl)vinylsulfone.

reactant | 1-(β-chloroethylsulfonyl)-3-nitrobenzene | 10 mmol, 2.50 g | ClCCS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H8ClNO4S
reactant | toluene | 20 g | C1(=CC=CC=C1)C | C7H8
reactant | potassium carbonate | 5.3 mmol, 1.50 g | C([O-])([O-])=O.[K+].[K+]
catalyst | triethylamine | 0.5 mmol, 50 mg | C(C)N(CC)CC | C6H15N
solvent | water | 10 g | O | H2O
product | (3-nitrophenyl)vinylsulfone | 2.00 g, yield 94.3% | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)C=C | C8H7NO4S
